US03950338
As described in Example XII, the condensation of 2.8 g of 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine with 2.2 g of 1-propyl-piperazine, in chloroform (40 cm3) gives, after the treatments described in Example XII. 3.14 g of 2-(4'-propyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido-(2,3-d)pyrimidine (yield 84%); melting point 149°C, after recrystallisation from ethyl acetate.

reactant | 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | 2.8 g | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
reactant | 1-propyl-piperazine | 2.2 g | C(CC)N1CCNCC1 | C7H16N2
solvent | chloroform | 40 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(4'-propyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido-(2,3-d)pyrimidine | 3.14 g, yield 84% | C(CC)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C19H27N5O3
